US06784192B2
5-(Methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde
0.81 g of 5-(methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal was dissolved in 8 ml of acetone, 2 ml of 5N-hydrochloric acid was added thereto, and the mixture was stirred at room temperature for 30 minutes. An aqueous sodium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, n-hexane was added to the residue and the resulting product was collected by filtration, to give 0.62 g of the title compound as a white powder.

reactant | 5-(methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde dimethyl acetal | 0.81 g | COC(C=1C(=NC=C(C1)S(=O)(=O)C)OC)OC | C10H15NO5S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | 5-(Methylsulfonyl)-2-methoxy-3-pyridinecarboxaldehyde | 0.62 g | CS(=O)(=O)C=1C=C(C(=NC1)OC)C=O | C8H9NO4S
